US04935051
Preparation of (R)(+)-2-[4-(5-chloro-3-fluoropyridin-2-yloxy)phenoxy]-propionic acid-methyl ester
A solution of 10.6 g (0.030 mol) of (R)(+)-2-[4-(5-chloro-3-fluoropyridin-2-yloxy)-phenoxy]-propionic acid chloride in 100 ml toluene is added slowly, while stirring into a solution of 4.9 ml (0.035 mol) of triethylamine and 2 ml (0.035mol) of methanol in 40 ml of toluene, that is cooled in an ice/bath. When everything is added, the ice-bath is removed and the reaction mixture is stirred for 3 hours at room temperature. The reaction mixture is then poured into ice-water and the organic material is extracted twice with ethyl acetate. The ethyl acetate layer is washed with a saturated salt solution, dried over magnesium sulfate, filtered and evaporated. The residue is purified by chromatography over a silicagel column with a hexane/ethyl acetate solution. After evaporation of the solvent, a clear oil, the above ester remains n35D 1.5859, [α]20D =+38.8±0.5 (2 % acetone).

reactant | (R)(+)-2-[4-(5-chloro-3-fluoropyridin-2-yloxy)-phenoxy]-propionic acid chloride | 0.030 mol, 10.6 g | ClC=1C=C(C(=NC1)OC1=CC=C(O[C@@H](C(=O)Cl)C)C=C1)F | C14H10Cl2FNO3
reactant | triethylamine | 0.035 mol, 4.9 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 0.035mol, 2 ml | CO | CH4O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | (R)(+)-2-[4-(5-chloro-3-fluoropyridin-2-yloxy)phenoxy]-propionic acid-methyl ester | COC([C@@H](C)OC1=CC=C(C=C1)OC1=NC=C(C=C1F)Cl)=O | C15H13ClFNO4
